2165-01-07 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-1-6**] 11:48 AM
 FEVER - 103.8
F - [**2165-1-6**] 11:14 AM
   - Bolused on multiple occassions to keep UOP up.
   - LUE Negative for DVT
   - PM Hct slightly decreased to 28 from 30.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2165-1-6**] 11:36 AM
   Azithromycin - [**2165-1-6**] 12:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-1-6**] 11:18 PM
   Vancomycin - [**2165-1-7**] 12:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-7**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 36.4
C (97.5
   HR: 86 (86 - 121) bpm
   BP: 91/47(58) {84/42(51) - 114/58(72)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,596 mL
                                                                  1,321 mL
   PO:
                                                                    180 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  3,416 mL
                                                                    961 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    750 mL
   Urine:
                                                                  1,500 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,096 mL
                                                                    571 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   9.6 g/dL
   154 mg/dL
   0.1 mg/dL
   30 mEq/L
   3.5 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   28.4 %
   15.7 K/uL
        [image002.jpg]
                            [**2165-1-6**]  01:34 PM
                            [**2165-1-7**]  02:02 AM
   WBC
   18.3
   15.7
   Hct
   28.8
   28.4
   Plt
   274
   243
   Cr
   0.1
   0.1
   Glucose
   131
   154
   Other labs: PT / PTT / INR:16.3/41.5/1.5, ALT / AST:14/12, Alk Phos / T
   Bili:73/0.8, LDH:220 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   30 yo M with [**Doctor Last Name **] muscular dystrophy presented with bilateral femur
   fractures, now s/p bilateral intramedullary rod fixation with fevers.
   .
   # Fevers: DDX includes DVT versus infection.  Patient currently on
   Lovenox which would make the latter less likely.  Patient with cough,
   infiltrate on pre-op and post-op CXR which and stable tachycardia,
   which infection more likely.  Differential includes CAP, given cough
   prior to hospitalization, although increase in fevers while in house,
   his position, recent surgery and inability to clear airway speaks to
   aspiration pneumonia.  Urinary studies thus far negative and Foley has
   been pulled. Blood cultures NGTD.  Patient also with blood transfusion
   and this does not fit with a exchange reaction.  Fevers devervesced
   with decreasing WBC overnight.
   - Changed to Vanc/Zosyn/Azithromycin
   - Sputum cultures pend
   - Blood cultures pend
   - Ucx - GNRs
   - LUE US negative for clot
   .
   # Hypoxia: likely due to underlying infection.  Patient with low
   respiratory reserve and will have difficulty clearing airway given his
   [**Name8 (MD) 3587**] MD.  This is concerning for possible quick decline.  PE also a
   possibility given recent surgery, tachycardia, hypotension.
   - Continue to treat with broad spectrum abx
   - ECHO to asses for right heart strain
 to be read
   - Supplemental O2 s needed
   - HOB above 45% if able
   - Aspiration precautions
   - Exsufflator for ventilatory support to help clear secretions
   .
   # Pain Control: Due to underlying BMD, on chronic narcotics which may
   contribute to decreased cough, although essential in his pain control
   for both his BMD and recent surgery.  Being followed by pain service
   recs are to increase dilaudid, add ketamine drip and methadone.
   - Dilaudid 2 mg IV q2h prn, Ketamine and Methadone to be started today
   - Pregabalin 50 mg [**Hospital1 **]
   - Continue Tylenol and Ibuprofen
   - standing bowel regimen
   .
   # Anemia:  Likely due to recent surgery and ~1300 cc blood loss.
   Patient received 2u PRBC with repeat Hct to 30.5.  Now stable for last
   2 days
   - trend Hct daily
   .
   # BMD
   - Continue Baclofen 10 tid
   .
   # Bilateral Hip Fracture: s/p fixation on [**2165-1-3**].
   - Ortho following
   - Continue Lovenox qd
   - Pain control
   - Consider calcium and vitamin D given likely osteopenia.  Labs pending
   .
   # Psych
   - Continue Escitalopram
   - Continue Risperdone
   - Continue Lamotrigine 100 mg [**Hospital1 **]
   - Coninue Clonazepam 0.5 mg tid
   .
   # PPX: lovenox qd, bowel regimen
   .
   #Code status: FULL CODE
   .
   # Communication: (Aunt) [**Telephone/Fax (1) 3588**]
   .
   # Dispo: Possible C/O later today.
 .H/O PNEUMONIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-7**] 02:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-01-07 12:25:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-1-6**] 11:48 AM
   Left arm US neg for DVT
 FEVER - 103.8
F - [**2165-1-6**] 11:14 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2165-1-6**] 11:36 AM
   Azithromycin - [**2165-1-6**] 12:41 PM
   Vancomycin - [**2165-1-7**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-1-7**] 08:30 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2165-1-7**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2165-1-7**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 111 (84 - 115) bpm
   BP: 96/54(64) {84/42(51) - 114/65(88)} mmHg
   RR: 17 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  3,596 mL
                                                                  2,349 mL
   PO:
                                                                    180 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  3,416 mL
                                                                  1,749 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    810 mL
   Urine:
                                                                  1,500 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,096 mL
                                                                  1,539 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: left base
   specifically)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   9.6 g/dL
   243 K/uL
   154 mg/dL
   0.1 mg/dL
   30 mEq/L
   3.5 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   28.4 %
   15.7 K/uL
        [image002.jpg]
                            [**2165-1-6**]  01:34 PM
                            [**2165-1-7**]  02:02 AM
   WBC
   18.3
   15.7
   Hct
   28.8
   28.4
   Plt
   274
   243
   Cr
   0.1
   0.1
   Glucose
   131
   154
   Other labs: PT / PTT / INR:16.3/41.5/1.5, ALT / AST:14/12, Alk Phos / T
   Bili:73/0.8, LDH:220 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   30 yr old man with [**Doctor Last Name 3587**] musc. dystrophy presents with fevers and
   resp distress post op
   1.  Resp Distress: Agree with plan to treat pneumonia and respiratory
   distress post operatively in setting of baseline neuromuscular weakness
   and very poor cough.  He will need continued aspiration precautions.
   We will treat broadly with Vanc/Zosyn/Azithro to cover both
   CAP/Aspiration pneumonia. To assist in secretion clearance, will try
   in/exsufflator.  He also likely has nocturnal hypoventilation and would
   benefit in future from sleep study or consideration of nocturnal
   CPAP/BiPAP
   2.  Pain control with narcotics and pain service recommendations. Needs
   ICU monitoring for the impact of IV Ketamine on his neurologic and
   respiratory status.
   3. UTI: GNR sensi pending
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-7**] 02:46 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: po diet
   Communication:  with pt
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for pain control and close monitoring of resp status.
   Total time spent: 35

2165-01-08 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-1-7**] 01:00 PM
   - BP dropped down to 80's systolic with ketamine at 10, decreased to 5
   - Pt complained of nausea and received zofran
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2165-1-6**] 11:36 AM
   Azithromycin - [**2165-1-6**] 12:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-1-8**] 12:00 AM
   Vancomycin - [**2165-1-8**] 01:05 AM
   Infusions:
   Ketamine - 5 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2165-1-7**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-8**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 100 (82 - 113) bpm
   BP: 100/57(65) {84/44(52) - 111/72(88)} mmHg
   RR: 19 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  4,152 mL
                                                                    982 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  3,072 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    170 mL
   Urine:
                                                                  1,200 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,952 mL
                                                                    812 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   278 K/uL
   8.9 g/dL
   126 mg/dL
   0.1 mg/dL
   33 mEq/L
   3.8 mEq/L
   4 mg/dL
   103 mEq/L
   139 mEq/L
   26.8 %
   15.2 K/uL
        [image002.jpg]
                            [**2165-1-6**]  01:34 PM
                            [**2165-1-7**]  02:02 AM
                            [**2165-1-8**]  03:35 AM
   WBC
   18.3
   15.7
   15.2
   Hct
   28.8
   28.4
   26.8
   Plt
   274
   243
   278
   Cr
   0.1
   0.1
   0.1
   Glucose
   131
   154
   126
   Other labs: PT / PTT / INR:16.8/42.4/1.5, ALT / AST:14/12, Alk Phos / T
   Bili:73/0.8, Albumin:2.5 g/dL, LDH:220 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   30 yo M with [**Doctor Last Name **] muscular dystrophy presented with bilateral femur
   fractures, now s/p bilateral intramedullary rod fixation with fevers.
   .
   # Fevers: DDX includes DVT versus infection.  Patient currently on
   Lovenox which would make the latter less likely.  Patient with cough,
   infiltrate on pre-op and post-op CXR which and stable tachycardia,
   which infection more likely.  Differential includes CAP, given cough
   prior to hospitalization, although increase in fevers while in house,
   his position, recent surgery and inability to clear airway speaks to
   aspiration pneumonia.  Urinary studies thus far negative and Foley has
   been pulled. Blood cultures NGTD.  Patient also with blood transfusion
   and this does not fit with a exchange reaction.  Fevers devervesced
   with decreasing WBC overnight.
   - Changed to Vanc/Zosyn/Azithromycin
   - Sputum cultures to be sent
   - Blood cultures pend
   - Ucx
 GNRs, ~6000, not likely source of infection
   - LUE US negative for clot
   .
   # Hypoxia: likely due to underlying infection.  Patient with low
   respiratory reserve and will have difficulty clearing airway given his
   [**Name8 (MD) 3587**] MD.  This is concerning for possible quick decline.  PE also a
   possibility given recent surgery, tachycardia, hypotension.
   - Continue to treat with broad spectrum abx
   - ECHO to asses for right heart strain
 to be read
   - Supplemental O2 s needed
   - HOB above 45% if able
   - Aspiration precautions
   - Exsufflator for ventilatory support to help clear secretions
   .
   # Pain Control: Due to underlying BMD, on chronic narcotics which may
   contribute to decreased cough, although essential in his pain control
   for both his BMD and recent surgery.  Being followed by pain service
   recs are to increase dilaudid, add ketamine drip and methadone.
   - Dilaudid 2 mg IV q2h prn, Ketamine and Methadone working
   - added amytriptyline per APS
   - Pregabalin 50 mg [**Hospital1 **]
   - Continue Tylenol and Ibuprofen
   - standing bowel regimen
   .
   # Anemia:  Likely due to recent surgery and ~1300 cc blood loss.
   Patient received 2u PRBC with repeat Hct to 30.5.  Now stable for last
   2 days
   - trend Hct daily
   .
   # BMD
   - Continue Baclofen 10 tid
   .
   # Bilateral Hip Fracture: s/p fixation on [**2165-1-3**].
   - Ortho following
   - Continue Lovenox qd
   - Pain control
   - Consider calcium and vitamin D given likely osteopenia.  Labs pending
   .
   # Psych
   - Continue Escitalopram
   - Continue Risperdone
   - Continue Lamotrigine 100 mg [**Hospital1 **]
   - Coninue Clonazepam 0.5 mg tid
   .
   # PPX: lovenox qd, bowel regimen
   .
   #Code status: FULL CODE
   .
   # Communication: (Aunt) [**Telephone/Fax (1) 3588**]
   .
   # Dispo: C/O today.
 .H/O PNEUMONIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-7**] 02:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-01-08 12:46:00 Physician Attending Progress Note
Chief Complaint: resp distress, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-1-7**] 01:00 PM
   Started on Ketamine drip - some low BP, but resolved with decreasing
   drip
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2165-1-6**] 11:36 AM
   Azithromycin - [**2165-1-6**] 12:41 PM
   Vancomycin - [**2165-1-8**] 01:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-1-8**] 08:03 AM
   Infusions:
   Ketamine - 5 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2165-1-8**] 10:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-8**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 108 (82 - 113) bpm
   BP: 97/52(61) {84/44(53) - 111/72(81)} mmHg
   RR: 20 (9 - 21) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.4 kg (admission): 77.4 kg
             Total In:
                                                                  4,153 mL
                                                                  1,892 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  3,073 mL
                                                                  1,892 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    670 mL
   Urine:
                                                                  1,200 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,953 mL
                                                                  1,222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: left base
   specifically)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   8.9 g/dL
   278 K/uL
   126 mg/dL
   0.1 mg/dL
   33 mEq/L
   3.8 mEq/L
   4 mg/dL
   103 mEq/L
   139 mEq/L
   26.8 %
   15.2 K/uL
        [image002.jpg]
                            [**2165-1-6**]  01:34 PM
                            [**2165-1-7**]  02:02 AM
                            [**2165-1-8**]  03:35 AM
   WBC
   18.3
   15.7
   15.2
   Hct
   28.8
   28.4
   26.8
   Plt
   274
   243
   278
   Cr
   0.1
   0.1
   0.1
   Glucose
   131
   154
   126
   Other labs: PT / PTT / INR:16.8/42.4/1.5, ALT / AST:14/12, Alk Phos / T
   Bili:73/0.8, Albumin:2.5 g/dL, LDH:220 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   30 yr old man with [**Doctor Last Name 3587**] musc. dystrophy presents with fevers and
   resp distress post op
   1.  Resp Distress: Agree with plan to treat pneumonia and respiratory
   distress post operatively in setting of baseline neuromuscular weakness
   and very poor cough.  He will need continued aspiration precautions.
   We will treat broadly with Vanc/Zosyn/Azithro to cover both
   CAP/Aspiration pneumonia. To assist in secretion clearance, will try
   in/exsufflator.  He also likely has nocturnal hypoventilation and would
   benefit in future from sleep study or consideration of nocturnal
   CPAP/BiPAP
   2.  Pain control with narcotics and pain service recommendations. Needs
   ICU monitoring for the impact of IV Ketamine on his neurologic and
   respiratory status.
   3. UTI: GNR sensi pending
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: po diet
 needs assistance with eating
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-1-7**] 02:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: